US09029544B2
(3′R,6′R,9′S)-3′-(4-tert-butylphenyl)-7′,7′-dimethyl-4′-(tetrahydro-2H-pyran-4-yl)-6′,7′,8′,9′-tetrahydro-3′H-spiro[cyclopentane-1,1′-furo[3,4-c]quinoline]-6′,9′-diol
17 mg (3′R,6′R,9′S)-9′-(tert-butyldimethylsilyloxy)-3′-(4-tert-butylphenyl)-7′,7′-dimethyl-4′-(tetrahydro-2H-pyran-4-yl)-6′,7′,8′,9′-tetrahydro-3′H-spiro[cyclopentane-1,1′-furo[3,4-c]quinoline]-6′-yl acetate are dissolved in 1 ml methanol and treated with 200 mg potassium carbonate. The mixture is stirred for 36 hours at room temperature, diluted with diethylether and washed with water and saturated aqueous sodium bicarbonate. The organic phase is dried with magnesium sulphate and the solvent is evaporated in vacuo. The residue is chromatographed on silica gel (petrole ether/ethylacetate 80:20 to 40:60).

reactant | (3′R,6′R,9′S)-9′-(tert-butyldimethylsilyloxy)-3′-(4-tert-butylphenyl)-7′,7′-dimethyl-4′-(tetrahydro-2H-pyran-4-yl)-6′,7′,8′,9′-tetrahydro-3′H-spiro[cyclopentane-1,1′-furo[3,4-c]quinoline]-6′-yl acetate | 17 mg | C(C)(=O)O[C@@H]1C(C[C@@H](C=2C3=C(C(=NC12)C1CCOCC1)[C@H](OC31CCCC1)C1=CC=C(C=C1)C(C)(C)C)O[Si](C)(C)C(C)(C)C)(C)C | C40H59NO5Si
reactant | potassium carbonate | 200 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 1 ml | CO | CH4O
solvent | diethylether | C(C)OCC | C4H10O
product | (3′R,6′R,9′S)-3′-(4-tert-butylphenyl)-7′,7′-dimethyl-4′-(tetrahydro-2H-pyran-4-yl)-6′,7′,8′,9′-tetrahydro-3′H-spiro[cyclopentane-1,1′-furo[3,4-c]quinoline]-6′,9′-diol | C(C)(C)(C)C1=CC=C(C=C1)[C@H]1OC2(C3=C1C(=NC=1[C@@H](C(C[C@@H](C31)O)(C)C)O)C3CCOCC3)CCCC2 | C32H43NO4
